US06930104B2
4-[1-(3,4-Dimethoxybenzoyl)-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl]-3,4-dihydro-2H-1,4-benzothiazine
Starting with cis-1-(3,4-dimethoxybenzoyl)-2-methyl-1,2,3,4-tetrahydro-4-quinolinol (1.00 g, 2.93 mmol) prepared in Reference Example 1 and 3,4-dihydro-2H-1,4-benzothiazine (1.22 g, 8.07 mmol), the same procedure as shown in Example 1 was repeated to give the titled compound (335 mg, yield: 25%) as a white crystal. (cis:trans=1.5:1)

reactant | cis-1-(3,4-dimethoxybenzoyl)-2-methyl-1,2,3,4-tetrahydro-4-quinolinol | 2.93 mmol, 1.00 g | COC=1C=C(C(=O)N2[C@H](C[C@H](C3=CC=CC=C23)O)C)C=CC1OC | C19H21NO4
reactant | 3,4-dihydro-2H-1,4-benzothiazine | 8.07 mmol, 1.22 g | S1CCNC2=C1C=CC=C2 | C8H9NS
product | 4-[1-(3,4-Dimethoxybenzoyl)-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl]-3,4-dihydro-2H-1,4-benzothiazine | 335 mg, yield: 25% | COC=1C=C(C(=O)N2C(CC(C3=CC=CC=C23)N2CCSC3=C2C=CC=C3)C)C=CC1OC | C27H28N2O3S
